US08623870B2
A solution of 90.4 mg (0.147 mmol) of tert-butyl 4-[4-(2-{3-[3-(3,5-difluorophenyl)-6-oxo-6H-pyridazin-1-ylmethyl]phenyl}oxazol-5-yl)pyrazol-1-yl]piperidine-1-carboxylate in a mixture of 0.22 ml of 4 N hydrogen chloride in dioxane and 0.23 ml of methanol is stirred at room temperature for 16 hours. The solution is evaporated and dried in vacuo, giving 6-(3,5-difluorophenyl)-2-{3-[5-(1-piperidin-4-yl-1H-pyrazol-4-yl)oxazol-2-yl]benzyl}-2H-pyridazin-3-one hydrochloride as colourless crystals; ESI 515.

reactant | tert-butyl 4-[4-(2-{3-[3-(3,5-difluorophenyl)-6-oxo-6H-pyridazin-1-ylmethyl]phenyl}oxazol-5-yl)pyrazol-1-yl]piperidine-1-carboxylate | 0.147 mmol, 90.4 mg | FC=1C=C(C=C(C1)F)C1=NN(C(C=C1)=O)CC=1C=C(C=CC1)C=1OC(=CN1)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C33H32F2N6O4
reactant | hydrogen chloride | 4 N, 0.22 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | 0.23 ml | CO | CH4O
product | 6-(3,5-difluorophenyl)-2-{3-[5-(1-piperidin-4-yl-1H-pyrazol-4-yl)oxazol-2-yl]benzyl}-2H-pyridazin-3-one hydrochloride | Cl.FC=1C=C(C=C(C1)F)C=1C=CC(N(N1)CC1=CC(=CC=C1)C=1OC(=CN1)C=1C=NN(C1)C1CCNCC1)=O | InChI=1S/C28H24F2N6O2.ClH/c29-22-11-20(12-23(30)13-22)25-4-5-27(37)36(34-25)16-18-2-1-3-19(10-18)28-32-15-26(38-28)21-14-33-35(17-21)24-6-8-31-9-7-24;/h1-5,10-15,17,24,31H,6-9,16H2;1H
